US09193724B2
Step B. 2-(5-bromopyridin-3-yl)-6-methyl-[1,2,4]triazolo[1,5-a]pyridine
Lead tetra acetate (2.28 g, 0.0051 mol) was added to a solution of 5-bromo-N-(5-methylpyridin-2-yl)nicotinimidamide (44-1; 1 g, crude 0.0034 mol) in toluene (40 mL) in a 80 mL microwave vial at RT. The reaction mixture was heated to 150° C. for 2.5 h under microwave irradiation. It was concentrated under vacuum to afford the crude product, which was purified by silica gel column chromatography to afford the title compound. MS (M+1): 290.1

reactant | 5-bromo-N-(5-methylpyridin-2-yl)nicotinimidamide | BrC=1C=NC=C(C(NC2=NC=C(C=C2)C)=N)C1 | C12H11BrN4
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(5-bromopyridin-3-yl)-6-methyl-[1,2,4]triazolo[1,5-a]pyridine | BrC=1C=C(C=NC1)C1=NN2C(C=CC(=C2)C)=N1 | C12H9BrN4
